US07449467B2
(1R,3S)-3-(Ethoxymethyl)-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentanamine dihydrochloride
tert-Butyl [(3S)-3-(ethoxymethyl)-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate (295 mg, 0.589 mol) was dissolved in a 2 M solution of hydrogen chloride in ether (10 mL). After being stirred at room temperature overnight, the reaction mixture was concentrated under vacuum to provide the desired product (330 mg) as a light yellow solid. MS calculated for C19H28F3N4O2: (M+H) 401.3; found 401.3.

reactant | tert-Butyl [(3S)-3-(ethoxymethyl)-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate | 0.589 mol, 295 mg | C(C)OC[C@]1(CC(CC1)NC(OC(C)(C)C)=O)C(=O)N1CCN(CC1)C1=NC=CC(=C1)C(F)(F)F | C24H35F3N4O4
reactant | hydrogen chloride | Cl | ClH
solvent | ether | 10 mL | CCOCC | C4H10O
product | (1R,3S)-3-(Ethoxymethyl)-3-(4-[4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentanamine dihydrochloride | 330 mg | Cl.Cl.C(C)OC[C@]1(C[C@@H](CC1)N)C(=O)N1CCN(CC1)C1=NC=CC(=C1)C(F)(F)F | InChI=1S/C19H27F3N4O2.2ClH/c1-2-28-13-18(5-3-15(23)12-18)17(27)26-9-7-25(8-10-26)16-11-14(4-6-24-16)19(20,21)22;;/h4,6,11,15H,2-3,5,7-10,12-13,23H2,1H3;2*1H/t15-,18+;;/m1../s1
